US06875760B2
A solution of 3-benzoxazol-2-yl-4-trifluoromethoxyphenylamine (210 mg, 0.71 mmol) in 5 mL of dry toluene was stirred while 1.15 mL of 3.1N hydrochloric acid in ethyl acetate was added. The precipitate was concentrated by evaporation. Another 5 mL of toluene was added followed by evaporation. This procedure was repeated 3 times to remove excess of hydrochloric acid. The amine hydrochloride was dissolved in 5 mL of toluene and trichloromethyl chloroformate (0.853 mL, 7.1 mmol) was added. The mixture was refluxed overnight under a nitrogen atmosphere, evaporated at 70° C. followed by stripping with dry toluene. 2-(5-Isocyanato-2-trifluoromethoxyphenyl)benzoxazole (160 mg, 70%) was obtained as crystals and used immediately to synthesize the title compound.

reactant | 3-benzoxazol-2-yl-4-trifluoromethoxyphenylamine | 0.71 mmol, 210 mg | O1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2OC(F)(F)F)N | C14H9F3N2O2
reactant | hydrochloric acid | 3.1N, 1.15 mL | Cl | ClH
reactant | trichloromethyl chloroformate | 7.1 mmol, 0.853 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Isocyanato-2-trifluoromethoxyphenyl)benzoxazole | 160 mg, 70% | N(=C=O)C=1C=CC(=C(C1)C=1OC2=C(N1)C=CC=C2)OC(F)(F)F | C15H7F3N2O3
